US07569589B2
To a solution of methyl phenyl(pyrrolidin-2-yl)acetate (0.360 g, 1.64 mmol) in 5 mL of tetrahydrofuran was added di-tert-butyl dicarbonate (717 mg, 3.28 mmol), and the reaction was stirred overnight. The mixture was concentrated in vacuo, then purified by silica gel chromatography (20% EtOAc/hexane), to provide tert-butyl 2-(2-methoxy-2-oxo-1-phenylethyl)pyrrolidine-1-carboxylate. ESI+MS: 264.2 [M+H-isobutylene]+.

reactant | methyl phenyl(pyrrolidin-2-yl)acetate | 1.64 mmol, 0.360 g | C1(=CC=CC=C1)C(C(=O)OC)C1NCCC1 | C13H17NO2
reactant | di-tert-butyl dicarbonate | 3.28 mmol, 717 mg | C(=O)(OC(C)(C)C)OC(=O)OC(C)(C)C | C10H18O5
solvent | tetrahydrofuran | 5 mL | O1CCCC1 | C4H8O
product | tert-butyl 2-(2-methoxy-2-oxo-1-phenylethyl)pyrrolidine-1-carboxylate | COC(C(C1=CC=CC=C1)C1N(CCC1)C(=O)OC(C)(C)C)=O | C18H25NO4
